US08309542B2
(a) benzyl 5-oxo-[1,4]diazepine-1-carboxylate
4.8 g (42.0 mmol) [1,4]diazepin-5-one are dissolved in 60 ml DCM and at ice bath temperature successively combined with 11.0 ml (83.9 mmol) triethylamine and 6.8 ml (46.2 mmol) benzyl chloroformate. The mixture is heated to RT and kept for three hours at this temperature. Then the mixture is concentrated and combined with water. The aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac. The crude product is [purified] by column chromatography on silica gel (eluant DCM/MeOH 95:5→90:10).

reactant | [1,4]diazepin-5-one | 42.0 mmol, 4.8 g | N1=CC=NC(C=C1)=O | C5H4N2O
reactant | triethylamine | 83.9 mmol, 11.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 46.2 mmol, 6.8 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | benzyl 5-oxo-[1,4]diazepine-1-carboxylate | O=C1N=CCN(C=C1)C(=O)OCC1=CC=CC=C1 | C13H12N2O3
